US07285558B2
3-Bromo-7-(cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
7-(Cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione (6.0 g), N-bromosuccinimide (7.8 g), and 100 mg of AIBN was taken up in 50 mL of 1,2-dichloroethane. The heterogeneous mixture was brought to reflux overnight. Water (100 mL) was added to the solution and separated. The organic layer was dried over sodium sulfate, filtered and removed under reduced pressure to give a yellow solid. The compound was flashed through a plug of silica gel, gave 6.7 g of white powder.

reactant | 7-(Cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 6.0 g | C1(CC1)CN1C(N(C(C=2C1=NNC2)=O)C)=O | C10H12N4O2
reactant | N-bromosuccinimide | 7.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 100 mL | O | H2O
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
catalyst | AIBN | 100 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 3-Bromo-7-(cyclopropylmethyl)-5-methyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 6.7 g | BrC=1NN=C2N(C(N(C(C21)=O)C)=O)CC2CC2 | C10H11BrN4O2
